US07951838B2
A mixture of 1-(3-chloropyrazin-2-yl)hydrazine (0.90 g, 62 mmol), triethyl orthoformate (2.3 mL), 14 mmol), and dry xylene (15 mL) was refluxed with stirring for 2 h. The mixture was brought to RT, diethyl ether was added and the suspension was filtered. The solid collected was washed with diethyl ether to afford 8-chloro-[1,2,4]triazolo[4,3-a]pyrazine (0.60 g, 62% yield). MS m/z: 155.0 (M+1).

reactant | 1-(3-chloropyrazin-2-yl)hydrazine | 62 mmol, 0.90 g | ClC=1C(=NC=CN1)NN | C4H5ClN4
reactant | triethyl orthoformate | 2.3 mL | C(OCC)(OCC)OCC | C7H16O3
reactant | xylene | 15 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | diethyl ether | C(C)OCC | C4H10O
product | 8-chloro-[1,2,4]triazolo[4,3-a]pyrazine | 0.60 g, 62% yield | ClC=1C=2N(C=CN1)C=NN2 | C5H3ClN4
